US06838544B2
Synthesis of Polyerythritol Di(Hydroxytetradecane Ether
15.0 g (0.035 mol) of the polyerythritol prepared in Example 1 and 0.15 g of sodium hydroxide were dissolved in 20 ml of N,N-dimethylformamide while heating at 150° C. in a dried nitrogen gas flow, and stirred for 30 minutes. 14.8 g (0.070 mol) of 1,2-epoxytetradecane in 50 ml of N,N-dimethylformamide was added to the mixture, which was further stirred for four hours at 105° C. in a dried nitrogen gas flow. After the reaction, N,N-dimetylformamide was evaporated to obtain adcrude product. After dissolving the crude product in 100 ml of hot toluene and cooling the solution to room temperature, unreacted polyerythritol was filtered out. The toluene in the filtrate was evaporated in vaccuo to obtain 28.5 g of a white powdery desired product.

reactant | sodium hydroxide | 0.15 g | [OH-].[Na+]
reactant | 1,2-epoxytetradecane | 0.070 mol, 14.8 g | O1CC1CCCCCCCCCCCC | C14H28O
reactant | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
reactant | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | Hydroxytetradecane Ether | 28.5 g | OCCCCCCCCCCCCCC.CCOCC | InChI=1S/C14H30O.C4H10O/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15;1-3-5-4-2/h15H,2-14H2,1H3;3-4H2,1-2H3
